US07312236B2
N-(3-(4-Dimethylamino-cyclohex-1-enyl)-2-fluoro-phenyl)-4-fluoro-benzamide hydrochloride salt
Reflux a mixture of 3-(4-dimethylamino-cyclohex-1-enyl)-2-fluoro-phenylamine (preparation 8, 0.115 g, 0.49 mmol) and 4-fluoro-benzoyl chloride (93 mg, 0.586 mmol) in dioxane (20 mL) for 2 hrs. Filter the reaction mixture through a SCX column (Bond Elut™, 10 g), wash with MeOH, elute the product with 2M NH3 in MeOH, evaporate the solvent, and further purify on a silica gel column (DCM:2M NH3 in MeOH, gradient) to give the free base of the title compound (0.125 g, 72%): MS (ES): m/z=357 (M+H)+. 1H NMR (CDCl3): δ 8.30 (m, 1H), 8.00 (m, 1H), 7.91 (m, 2H), 7.18 (m, 2H), 7.12 (m, 1H), 6.99 (m, 1H), 5.90 (m, 1H), 2.68 (m, 1H), 2.50 (m, 3H), 2.43 (s, 6H), 2.26 (m, 1H), 2.15 (m, 1H), 1.64 (m, 1H).

reactant | 3-(4-dimethylamino-cyclohex-1-enyl)-2-fluoro-phenylamine | 0.49 mmol, 0.115 g | CN(C1CC=C(CC1)C=1C(=C(C=CC1)N)F)C | C14H19FN2
reactant | 4-fluoro-benzoyl chloride | 0.586 mmol, 93 mg | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | N-(3-(4-Dimethylamino-cyclohex-1-enyl)-2-fluoro-phenyl)-4-fluoro-benzamide hydrochloride salt | 0.125 g, 72% | Cl.CN(C1CC=C(CC1)C=1C(=C(C=CC1)NC(C1=CC=C(C=C1)F)=O)F)C | InChI=1S/C21H22F2N2O.ClH/c1-25(2)17-12-8-14(9-13-17)18-4-3-5-19(20(18)23)24-21(26)15-6-10-16(22)11-7-15;/h3-8,10-11,17H,9,12-13H2,1-2H3,(H,24,26);1H
